US05059597
a) 1-Benzyl-3-(2-chloroethyl-methyl-amino)-pyrrolidine-2,5-dione
74.8 g (0.4 mol) of N-benzylmaleimide [Arch. Pharm. 308, 489 (1975)] and 52.0 g (0.4 mol) of 2-chloroethyl-methylamine hydrochloride are initially introduced into 400 ml of dioxane and 40.4 g (0.4 mol) of triethylamine are added dropwise at 20° C. The mixture is then boiled under reflux for 5 hours. The batch is subsequently poured into 2 l of ice-water and extracted with 3 portions of 400 ml of chloroform and the extract is washed with water, dried over sodium sulphate and concentrated on a rotary evaporator. Chromatography of the residue (101.1 g) on silica gel using ethyl acetate:petroleum ether (1:2) gives 56.8 g (51% of theory) of an oil.

reactant | N-benzylmaleimide | 0.4 mol, 74.8 g | C(C1=CC=CC=C1)N1C(C=CC1=O)=O | C11H9NO2
reactant | 2-chloroethyl-methylamine hydrochloride | 0.4 mol, 52.0 g | Cl.ClCCNC
reactant | triethylamine | 0.4 mol, 40.4 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 1-Benzyl-3-(2-chloroethyl-methyl-amino)-pyrrolidine-2,5-dione | C(C1=CC=CC=C1)N1C(C(CC1=O)N(C)CCCl)=O | C14H17ClN2O2
